US05922645
3.9 g (10.6 mmol) of methyl 2-(N-tert-butylsulfamoyl)-4-cyclopentylidenehydrazinobenzoate are stirred in 40 ml of trifluoroacetic acid at 25° C. for 2 hours. The mixture is evaporated and the residue is triturated with diethyl ether. After filtering off with suction and drying, 3.0 g (91% of theory) of methyl 4-cyclopentylidenehydrazino-2-sulfamoylbenzoate of melting point: 227-229° C. (decomposition) are obtained.

reactant | methyl 2-(N-tert-butylsulfamoyl)-4-cyclopentylidenehydrazinobenzoate | 10.6 mmol, 3.9 g | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NN=C1CCCC1 | C17H25N3O4S
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 4-cyclopentylidenehydrazino-2-sulfamoylbenzoate | 3.0 g, 91% | C1(CCCC1)=NNC1=CC(=C(C(=O)OC)C=C1)S(N)(=O)=O | C13H17N3O4S
